US07935688B2
(1) Synthesis of 4-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-1-pentynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenol (Racemic Mixture)
A 2.44 M solution of n-butyllithium in hexane (42.8 mL, 104.5 mmol) was added to a solution of 4-[1-ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-phenol (Example 1-(3); 12.22 g, 41.8 mmol) in tetrahydrofuran (300 mL) at 0° C., and the mixture was stirred at the same temperature for 30 minutes. Trimethylacetaldehyde (13.79 mL, 125.4 mmol) was added at 0° C., and the mixture was stirred at the same temperature for 30 minutes. A saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by a silica gel column (hexane/ethyl acetate=9/1 to 3/1) to give the title compound (13.08 g, 83%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 104.5 mmol, 42.8 mL | CCCCCC | C6H14
reactant | 4-[1-ethyl-1-(4-ethynyl-3-methyl-phenyl)-propyl]-2-methyl-phenol | 41.8 mmol, 12.22 g | C(C)C(CC)(C1=CC(=C(C=C1)C#C)C)C1=CC(=C(C=C1)O)C | C21H24O
reactant | Trimethylacetaldehyde | 125.4 mmol, 13.79 mL | CC(C=O)(C)C | C5H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 4-{1-ethyl-1-[4-(3-hydroxy-4,4-dimethyl-1-pentynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenol | 13.08 g, 83% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC(C(C)(C)C)O)C)C1=CC(=C(C=C1)O)C | C26H34O2
